US06441017B1
Step C: 3-Benzyloxyphenylsulfonyl Chloride
Magnesium 3-benzyloxyphenylsulfinate bromide, as described above in Step B, (4.5 g, 14 mmol) was dissolved in dry CH2Cl2 (175 mL) and cooled to 0° C. under argon. Sulfuryl chloride (19 mL of a 1.0 M solution in CH2Cl2, 19 mmol) was added dropwise, and the mixture was stirred for 18 hours at ambient temperature, during which time a precipitate formed. The precipitate was removed by filtration and the filtrate was concentrated under reduced pressure to give the product as a yellow oil.

reactant | Magnesium 3-benzyloxyphenylsulfinate bromide | [Br-].C(C1=CC=CC=C1)OC=1C=C(C=CC1)S(=O)[O-].[Mg+2]
reactant | Sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | CH2Cl2 | 175 mL | C(Cl)Cl | CH2Cl2
product | 3-Benzyloxyphenylsulfonyl Chloride | C(C1=CC=CC=C1)OC=1C=C(C=CC1)S(=O)(=O)Cl | C13H11ClO3S
